US05994378
A mixture of potassium acetate (1.34 g), isopropyl 2-amino-5-benzyloxyphenylacetate (3.9 g) and acetic anhydride (4.0 g) in benzene (40 ml) was stirred at 80° C. After 30 minutes, isopentylnitrite (2.3 g) was added dropwise to the mixture over 15 minutes and then the mixture was stirred at same temperature for 4 hours. After cooling, insoluble mass was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in isopropyl alcohol (30 ml) containing conc. sulphuric acid (0.5 ml) and the mixture was stirred at 80° C. for 3 hours. After cooling to room temperatures the resulting crystals were collected by filtration and washed with isopropyl ether to give isopropyl 5-benzyloxy-1H-indazole-3-carboxylate (2.4 g).

reactant | potassium acetate | 1.34 g | C(C)(=O)[O-].[K+]
reactant | isopropyl 2-amino-5-benzyloxyphenylacetate | 3.9 g | NC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC(=O)OC(C)C | C18H21NO3
reactant | acetic anhydride | 4.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | isopentylnitrite | 2.3 g | C(CC(C)C)ON=O | C5H11NO2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | isopropyl 5-benzyloxy-1H-indazole-3-carboxylate | 2.4 g | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C(=O)OC(C)C | C18H18N2O3
